US05352792
To a solution of 7β-[(Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-trityloxyiminoacetyl]amino-3-(5-tetrazolyl)thiomethylthio-3-cephem-4-carboxylic acid diphenylmethyl ester (942 mg: containing ca. 10% of byproduct) in a mixture of anisole (3 ml) and nitromethane (12 ml) cooling at -30° to -40° C. is added a solution of aluminum chloride (980 mg: 7.37 mMol.) in anisole (3 ml), and the mixture is stirred at -30° to -40° C. for 1 hour. The reaction mixture is diluted with 1N-hydrochloric acid (7.5 ml) and water, washed with ethyl acetate, concentrated under reduced pressure to remove the organic solvents, and subjected to styrene-divinylbenzene copolymer chromatography (methanol: water=2:3). The resulting powder is washed with ethyl acetate to give 7β-[(Z)-2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetyl]amino-3-(tetrazol-5-yl)thiomethylthio-3-cephem-4-carboxylic acid as pale yellow powder (289 mg). Yield: 28% (from 7β-[(Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-trityloxyiminoacetyl]amino-3-methanesulfonyloxy-3-cephem-4-carboxylic acid diphenylmethyl ester).

reactant | 7β-[(Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-trityloxyiminoacetyl]amino-3-(5-tetrazolyl)thiomethylthio-3-cephem-4-carboxylic acid diphenylmethyl ester | 942 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=S)C1=C(CS[C@H]2N1C([C@H]2NC(\C(=N/OC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)\C=2N=C(SC2)NC(=O)OC(C)(C)C)=O)=O)CSC2=NN=NN2 | C51H45N9O6S4
reactant | aluminum chloride | 7.37 mMol, 980 mg | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | anisole | 3 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | nitromethane | 12 ml | [N+](=O)([O-])C | CH3NO2
solvent | anisole | 3 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | hydrochloric acid | 7.5 ml | Cl | ClH
solvent | water | O | H2O
product | 7β-[(Z)-2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetyl]amino-3-(tetrazol-5-yl)thiomethylthio-3-cephem-4-carboxylic acid | 289 mg, Yield: 28% | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2)C(=S)O)C1=O)=N/O | C14H13N9O4S4
